US08497264B2
A solution of hydrogen chloride (5-6N in iPrOH; 1.025 mL, 5.12 mmol) was added to a solution of (S)—N—((S)-1-(5-bromo-2-(methoxymethoxy)phenyl)-1-(3-chloro-2-fluoro-6-morpholinopyridin-4-yl)-2-(cyanomethoxy)ethyl)-2-methylpropane-2-sulfinamide (1083 mg, 1.708 mmol) in THF (4 mL) under nitrogen atmosphere. The reaction mixture was stirred for 10 min at RT. The solvent was removed under reduced pressure and the residue was dissolved in DCE (2 mL). A solution of AlMe3 (2M in toluene; 2.56 mL, 5.12 mmol) was added drop wise and the reaction mixture was allowed to stir at 70 C for 3 h. The reaction mixture was cooled to RT and a solution of aqueous saturated solution of potassium sodium tartrate was added, followed by EtOAc. The reaction mixture was allowed to stir vigorously for 1 h. The organic phase was separated, washed with brine and dried over MgSO4. The solvent was removed under reduced pressure and the residue was purified by silica gel chromatography (100% EtOAc) to afford 390 mg of (S)-2-(5-amino-3-(3-chloro-2-fluoro-6-morpholinopyridin-4-yl)-3,6-dihydro-2H-1,4-oxazin-3-yl)-4-bromophenol.

reactant | hydrogen chloride | 5.12 mmol, 5-6N, 1.025 mL | Cl | ClH
reactant | (S)—N—((S)-1-(5-bromo-2-(methoxymethoxy)phenyl)-1-(3-chloro-2-fluoro-6-morpholinopyridin-4-yl)-2-(cyanomethoxy)ethyl)-2-methylpropane-2-sulfinamide | 1.708 mmol, 1083 mg | BrC=1C=CC(=C(C1)[C@@](COCC#N)(C1=C(C(=NC(=C1)N1CCOCC1)F)Cl)N[S@@](=O)C(C)(C)C)OCOC | C25H31BrClFN4O5S
reactant | AlMe3 | 5.12 mmol, 2M, 2.56 mL | C[Al](C)C
reactant | potassium sodium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-2-(5-amino-3-(3-chloro-2-fluoro-6-morpholinopyridin-4-yl)-3,6-dihydro-2H-1,4-oxazin-3-yl)-4-bromophenol | 390 mg | NC1=N[C@](COC1)(C1=C(C(=NC(=C1)N1CCOCC1)F)Cl)C1=C(C=CC(=C1)Br)O | C19H19BrClFN4O3
